US09238639B2
(4-Fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
A mixture of methyl(4-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (240 mg), 1N NaOH (2 mL), THF (2 mL) and MeOH (2 mL) was stirred at room temperature for 1.5 h. To the mixture were added 1N HCl (2 mL) and water. The mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residual solid was washed with hexane to give the title compound (210 mg). The crystals were crystallized from acetone-hexane.

reactant | methyl(4-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 240 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)C)F)=O | C19H15F4NO3S
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | water | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | (4-Fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 210 mg | FC1=CC(=CC2=C1C(=CS2)CC(=O)O)OCC=2C(=NC(=CC2)C(F)(F)F)C | C18H13F4NO3S
